US07582773B2
Step 4: Synthesis of 4-(1,3-Dibenzyl-2-phenyl-1H-indol-5-yl)-phenol.
The desired product was prepared using a procedure similar to step 4 of example 3. Thus, 1,3-dibenzyl-5-(4-methoxy-phenyl)-2-phenyl-1H-indole (1.162 g, 2.423 mmol) was reacted with BBr3 (2.9 ml of a 1M solution in CH2Cl2) to give the product (1.105 g, 2.373 mmol, 98%) as a brown oil. 1H NMR (DMSO-d6) δ 4.05 (s, 2H), 5.33 (s, 2H), 6.79 (d, J=8.6 Hz, 2H), 6.87 (d, J=7.5 Hz, 2H), 7.08-7.23 (m, 8H), 7.30 (d, J=8.4 Hz, 1H), 7.35-7.40 (m, 5H), 7.42-7.49 (m, 3H), 7.52 (s, 1H), 9.36 (s, 1H); [ESI(+)], m/z 466 (M+H)+.

reactant | 1,3-dibenzyl-5-(4-methoxy-phenyl)-2-phenyl-1H-indole | 2.423 mmol, 1.162 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OC)CC1=CC=CC=C1)C1=CC=CC=C1 | C35H29NO
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(1,3-Dibenzyl-2-phenyl-1H-indol-5-yl)-phenol | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)O)CC1=CC=CC=C1)C1=CC=CC=C1 | C34H27NO
